US06150352
Step 3.1D 3-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-1-methylimidazolidine-2,4-dione
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-methyl-2,5-dioxoimidazolidin-1-yl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester in 2.0 dry methylene chloride was added a few drops of anisole followed by 1.0 mL of trifluoroacetic acid and the mixture stirred at room temperature. After 1 hour the solvents were removed in vacuo and the resulting residue purified by flash chromatography on silica gel (methylene chloride:ammonium hydroxide:methanol, 96:1:3) to give the title compound.

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-methyl-2,5-dioxoimidazolidin-1-yl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N1C(N(CC1=O)C)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C33H39ClN4O6
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | anisole | a few drops | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-1-methylimidazolidine-2,4-dione | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCCC1NCCCC1)N1C(N(CC1=O)C)=O | C28H31ClN4O4
